US04415572
6-(1-Piperazinyl)-3,4-dihydrocarbostyril (2.6 g) and 1 g of sodium hydrogencarbonate was added to 50 ml of dimethyl sulfoxide and the mixture was stirred with ice cooling while slowly adding dropwise 20 ml of dimethyl sulfoxide solution containing 3.2 g of 4-bromobenzoyl chloride. After completion of addition the reaction mixture was stirred at room temperature for 60 minutes. The reaction mixture was poured into a large amount of water and extracted with chloroform. The extract was washed with saturated sodium hydrogencarbonate solution and subsequently with water and dried over anhydrous sodium sulfate. Chloroform was distilled off and residual crystals were recrystallized from methanol-chloroform to give 0.8 g of 6-[4-(4-bromobenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 233°-234.5° C., colorless granules.

reactant | 6-(1-Piperazinyl)-3,4-dihydrocarbostyril | 2.6 g | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
reactant | sodium hydrogencarbonate | 1 g | C(O)([O-])=O.[Na+]
reactant | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
reactant | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
reactant | 4-bromobenzoyl chloride | 3.2 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | water | O | H2O
product | 6-[4-(4-bromobenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 0.8 g | BrC1=CC=C(C(=O)N2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=C1 | C20H20BrN3O2
